US06673803B2
Diethyl azodicarboxylate (378 μl, 2.4 mmol) was added dropwise to a mixture of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (292 mg, 0.8 mmol), (prepared as described for the starting material in Example 48), triphenylphosphine (629 mg, 2.4 mmol) and 2-(2-morpholinoethoxy)ethanol (196 mg, 1.12 mmol), (prepared as described for the starting material in Example 53), in methylene chloride (10 ml) under nitrogen. The mixture was stirred for 3.5 hours at ambient temperature and the mixture was purified by pouring it directly on to a column of silica and eluting with methylene chloride/acetonitrile/methanol (6/3/1). The purified product was dissolved in methylene chloride/methanol and the insolubles were removed by filtration. 2M Ethereal hydrogen chloride (1 ml) was added to the filtrate and the volatiles were removed by evaporation. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(2-morpholinoethoxy)ethoxy)quinazoline hydrochloride (232 mg, 49%).

reactant | Diethyl azodicarboxylate | 2.4 mmol, 378 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.8 mmol, 292 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 2.4 mmol, 629 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-morpholinoethoxy)ethanol | 1.12 mmol, 196 mg | O1CCN(CC1)CCOCCO | C8H17NO3
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(2-morpholinoethoxy)ethoxy)quinazoline hydrochloride | 232 mg, 49% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOCCN2CCOCC2)C=C1)F | InChI=1S/C23H26BrFN4O4.ClH/c1-30-21-13-17-20(26-15-27-23(17)28-19-3-2-16(24)12-18(19)25)14-22(21)33-11-10-32-9-6-29-4-7-31-8-5-29;/h2-3,12-15H,4-11H2,1H3,(H,26,27,28);1H
